US06284796B1
Preparation of 3-(iso-buten-1-yl)-phenylbromide
To a suspension of iso-propyltriphenylphosphonium iodide in dry THF (150 mL) under nitrogen at −23° C. was added 2.5 M n-butyl lithium in hexanes (13.4 mL, 33.6 mmol). The resulting solution was stirred 0.5 hours at −23° C., the cooling bath was removed, and the reaction was stirred 0.5 hours at ambient temperature to give a dark red homogeneous solution which was cooled to −23° C. To the solution was added neat 3-bromobenzaldehyde (3.73 mL, 32 mmol). The cooling bath was removed, the reaction was stirred at ambient temperature for 1 hour, quenched by adding excess saturated ammonium chloride, and partitioned between ether and brine. The organic layer was washed with saturated aqueous Na2S2O5, brine, dried (Na2SO4), filtered, and concentrated under vacuum. Purification on silica gel with hexanes gave the title compound (5.34 g, 79%) as a colorless oil.

reactant | iso-propyltriphenylphosphonium iodide | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | 2.5 M | C(CCC)[Li]
reactant | 3-bromobenzaldehyde | 32 mmol, 3.73 mL | BrC=1C=C(C=O)C=CC1 | C7H5BrO
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 3-(iso-buten-1-yl)-phenylbromide | 5.34 g, 79% | C(=C(C)C)C=1C=C(C=CC1)Br | C10H11Br
